US07981903B2
A solution of 2-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline (285 g, 0.731 mmol) in ethanol (10 mL) was treated with 10% palladium on carbon (30 mg, Aldrich), and stirred under 60 psi of hydrogen pressure for 16 h in a Fischer-Porter apparatus. The pressure was released, the reaction vessel evacuated, and back-filled with nitrogen twice. The mixture was filtered through celite and the filtrate was concentrated to provide 2-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-6-(methyloxy)-1,2,3,4-tetrahydro-7-isoquinolinamine (0.26 g, 0.72 mmol, 99%). 1H NMR (400 MHz, DMSO-d6) is complicated due to amide rotomers δ ppm 0.92-0.98 (m, 6 H), 2.30-2.71 (m, some signals underneath DMSO, 15 H), 3.56-3.63 (m, 2 H), 3.72 (s, 3 H), 4.37-4.47 (two singlets at 4.38 and 4.45, 2 H), 4.53-4.59 (two broad singlets at 4.55 and 4.58, 2 H), 6.38-6.42 (two singlets at 6.39 and 6.41, 1 H), 6.55-6.58 (two singlets at 6.56 and 6.57, 1 H); ESIMS (M+H)+=361.

reactant | 2-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 0.731 mmol, 285 g | CC(C)N1CCN(CC1)CCC(=O)N1CC2=CC(=C(C=C2CC1)OC)[N+](=O)[O-] | C20H30N4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
product | 2-{3-[4-(1-methylethyl)-1-piperazinyl]propanoyl}-6-(methyloxy)-1,2,3,4-tetrahydro-7-isoquinolinamine | 0.72 mmol, 0.26 g, 99% | CC(C)N1CCN(CC1)CCC(=O)N1CC2=CC(=C(C=C2CC1)OC)N | C20H32N4O2
